Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:
Mr. ___ is a ___ male with asplenia,
polycythemia ___, and secondary AML with CNS disease s/p allo
SCT (D0 = ___ with relapsed disease s/p 3 cycles of
decitabine/venetoclax and DLI on ___ currently on ___
with recent admission for pneumonia who presents with fever.

Patient was recently admitted ___ to ___ with right lower lobe
pneumonia in the setting of neutropenia. He was treated with
14-day course of meropenem and vancomycin. Infectious work-up,
including bronchoscopy, was unrevealing. Hospitalization was
complicated by transaminitis, presumed to be due to drug-induced
liver injury, and persistent thrombocytopenia requiring several
transfusions. He was also seen by dermatology for new nodules on
his lower extremities and had a biopsy. Repeat chest imaging
prior to discharge showed resolving right lower lobe pneumonia
containing a fluid filled pneumatocele or early lung abscess. He
was discharged to complete a further 14-day course of
levofloxacin and metronidazole.

He reports fever to ___ yesterday and 101.7 the morning of
admission. He notes feeling more flushed. He also notes mild
rhinorrhea over past few days which seems to be improving as 
well
as right ear discomfort. He also notes some right lung pain 
which
feels different and less intense then the pain he had prior to
his last admission. The notes a mild cough, poor appetite, and
chronic right foot neuropathy.

On arrival to the ED, initial vitals were 98.3 86 113/85 20 98%
RA. Exam was unremarkable. Labs were notable for WBC 6.9 (ANC
100), H/H 7.7/24.0, Plt 12, INR 1.6, fibrinogen 761, Na 137, K
4.1, BUN/Cr ___, ALP 266, LDH 317, and lactate 1.6. Influenza
PCR was negative. CXR showed worsening right lower lobe
consolidative opacity. Patient was given cefepime 2g IV and
flagyl 500mg IV. Prior to transfer vitals were 99.2 100 122/70 
16
96% RA.

On arrival to the floor, patient endorses the above history. He
has no acute issues or concerns. He headache, vision changes,
dizziness/lightheadedness, weakness/numbnesss, shortness of
breath, hemoptysis, chest pain, palpitations, abdominal pain,
nausea/vomiting, diarrhea, hematemesis, hematochezia/melena,
dysuria, and hematuria.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: Initial BMBx, dx AML 
- ___: Leukopheresis
- ___: Induction Therapy 7+3 cytarabine + daunorubicin
- ___: Hypercellular marrow with extensive fibrosis, 5%
blasts
- ___: IT Ara-C, TNC2 postive cytospin
- ___: Triple therapy TNC 1, negative cytospin
- ___: Triple therapy TNC 1 negative cytospin
- ___: Triple therapy TNC 1 negative cytospin
- ___: Triple therapy TNC 6 negative cytospin
- ___: Admitted for URD ablative Allogeneic stem cell
transplant with Fludarabine/Busulfan for conditioning regimen.
Day 0 = ___. Enrolled into ___.
- ___: BMBX D+24, PB Chimerism CD33 100 D, CD3 70%. BM JAK2
1%
- ___: BM Chimerism D87% (CD33 100 CD3 D68%)
- ___: BM Chimerism D91% (DCD33 100 CD3 D68%)
- ___ apheresis unsuccessful
- ___: PB chimersims D93% (CD33 100, CD3 80%)
- ___: RLE DVT started on LMWH
- ___: PB chimersims D97% (CD33 99, CD3 97%)
- ___: BMBX 8% blasts, Stoped tacrolimus
- ___: C1D1 Dacogen/Venetoclax
- ___: C2D1 Dacogen/Venetoclax
- ___: DLI
- ___: C3D1 Dacogen/Venetoclax

Polycythemia ___ as described above
-CAD status post PCI
___ Splenectomy 
 
Social History:
___
Family History:
Mother with polycythemia ___.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: Temp 99.6, BP 118/69, HR 89, RR 18, O2 sat 97% RA.
GENERAL: Pleasant man, in no distress, lying in bed comfortably.
HEENT: Anicteric, PERLL, OP clear.
CARDIAC: RRR, no murmurs.
LUNG: Appears in no respiratory distress, right basilar rhonchi.
ABD: Soft, non-tender, non-distended, positive bowel sounds,.
EXT: Warm, well perfused, no lower extremity edema.
NEURO: A&Ox3, good attention and linear thought, gross strength
and sensation intact.
SKIN: Multiple pink-to-violaceous firm papules on bilateral 
lower
extremities as well as several on bilateral upper extremities.

DISCHARGE PHYSICAL EXAM:
moderate distress apneic restless at times
 
Pertinent Results:
ADMISSION LABS:
___ 05:55PM BLOOD WBC: 6.9 RBC: 2.46* Hgb: 7.7* Hct: 24.0*
MCV: 98 MCH: 31.3 MCHC: 32.1 RDW: 16.6* RDWSD: 54.1* Plt Ct: 12*
___ 05:55PM BLOOD Neuts: 1* Lymphs: ___ Monos: 9 Eos: 1 
Baso:
0 Blasts: 69* NRBC: 108.0* AbsNeut: 0.10* AbsLymp: 1.92 AbsMono:
0.62 AbsEos: 0.07 AbsBaso: 0.00*
___ 05:55PM BLOOD ___: 17.2* PTT: 30.2 ___: 1.6*
___ 05:55PM BLOOD Fibrino: ___
___ 05:55PM BLOOD Glucose: 104* UreaN: 14 Creat: 0.8 Na: 
137
K: 4.1 Cl: 99 HCO3: 26 AnGap: 12
___ 05:55PM BLOOD ALT: 22 AST: 33 LD(LDH): 317* AlkPhos:
266* TotBili: 0.8
___ 05:55PM BLOOD Albumin: 3.4*
___ 06:16PM BLOOD Lactate: 1.6

DISCHARGE LABS
none-CMO
 
Brief Hospital Course:
Mr. ___ is a ___ male with asplenia, 
polycythemia ___, and secondary AML with CNS disease s/p allo 
SCT (D0 = ___ with relapsed disease s/p 3 cycles of 
decitabine/venetoclax and DLI on ___ most recently on 
Ivisidenib with recent admission for pneumonia who presented 
with febrile neutropenia with persistent RLL pneumonia with 
course c/b SVT with unfortunate overwhelming infection now 
transitioned to comfort measures only and transition to home 
hospice.

ACUTE CONDITIONS
==================== 

#RIGHT LOWER LOBE PNEUMONIA: 
#FEBRILE NEUTROPENIA (Fevers persist]: 
Patient is status post recent prolonged admission with right 
lobe pneumonia that was concerning for possible abscess as well 
as viral or fungal etiology. BAL and induced sputum studies were 
negative at the time. He recently completed prolonged course of
antibiotics; however, he was re-admitted with febrile 
neutropenia and persistent RLL pneumonia concerning of fungal 
etiology on imaging vs. lung abscess formation per ID. Further 
work up of PNA with urine legionella (neg), strep pneumo (neg), 
MRSA (neg) and parvovirus (neg). Sinus CT ___ obtained for 
continued sinus
pressure showed a right obstructive sinusitis. He was started on 
IV Vancomycin (D1 ___ and IV Ceftaz 2gm Q8 hours 
(D1 ___. Beta glucan elevated at 424, could be 
false elevation, galactomannan negative. Repeat BD glucan 
negative, Asp galactomannan ___ PND. MRSA negative; 
therefore, vancomycin
was discontinued. Patient had continued fevers, which prompted 
re-imaging on ___. Chest CT showed progression of pneumonia, 
now involving majority of the right lower lobe with surrounding 
ground-glass opacities. Given concern for fungal pneumonia, 
patient was started on Ambisone. ID re-consulted ___, recs 
biopsy and induced sputum. Per ID, would need biopsy of his RLL 
consolidation but deferred in light of profound TCP and GOC.

Unfortunately, patient developed worsening pulmonary symptoms 
(increased WOB ___ and tachycardia) and his 
antibiotics was escalated from ceftazidime to meropenem (D1: 
___. He also developed new SVT which may have 
exacerbated his pulmonary symptoms. He was given Solumedrol 50mg 
IVPx1 and was continued daily through ___, d/c'd as has not 
been efficacious for his pulmonary symptoms. Given ongoing high 
fevers, added Linezolid (D1 ___. Chest CT showed 
worsening PNA on ___, after discussing the results with 
primary oncologist, patient decided to transition care from 
aggressive treatment to focus on symptom management and comfort. 
His antibiotics were discontinued on ___ and he was started 
on Morphine IV/PO for dyspnea management. He was discharged home 
on ___ and after multiple discussions, agreed to home with 
hospice services.
-per palliative recommendations will be discharged home with: 
morphine ___ po suspension q2 prn, Ativan 0.5-1mg po q4 prn, 
Tylenol ___ po prn.

#RELAPSED AML: He is s/p allogeneic SCT (D0 = ___ with 
relapsed disease s/p 3 cycles of decitabine/venetoclax and DLI 
on ___. BMBx ___ consistent with persistent leukemia, 
based on (+)IDH1 mutation. He was started on ivosidenib ___, 
and venetoclax was stopped. Patient w/ lesions to extremities 
that
was concerning for leukemia cutis. Dermatology biopsied site on 
___ result c/w leukemia cutis. Given persistent PNA despite 
ABX and progressive disease, had GOC discussion with primary 
oncologist on ___ and patient was made DNR/DNI, and on 
___ as above with transition to CMO. 

#DISCHARGE PLANNING: patient with difficult non compliance in 
the past and patient was eager to leave the hospital ASAP ___ 
AM. He initially was refusing home services, including hospice 
care but after discussion with RN, SW, palliative team agreed to 
go home with hospice services. Initially consulted ethics and 
psychiatry with concern of patient leaving AMA however after 
multiple discussions with ___ team patient agreed to resuming 
hospice services and abiding by recommendations. Patient had 
safety evaluation before discharge and appropriate to discharge 
home with hospice. 

d/c planning > 30 min

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevoFLOXacin 750 mg PO DAILY 
2. Ursodiol 300 mg PO QAM 
3. Ursodiol 600 mg PO QPM 
4. Magnesium Oxide 800 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. Isavuconazonium Sulfate 372 mg PO DAILY 
7. Gabapentin 400 mg PO DAILY 
8. Multivitamins W/minerals 1 TAB PO DAILY 
9. FoLIC Acid 1 mg PO DAILY 
10. Acyclovir 400 mg PO Q8H 
11. Pentamidine-Inhalation 300 mg IH MONTHLY 
12. Tibsovo (ivosidenib) 500 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  LORazepam 0.5-1 mg PO Q4H:PRN anxiety 
RX *lorazepam 0.5 mg ___ tabs by mouth every 4 hours as needed 
Disp #*42 Tablet Refills:*0 
3.  Morphine Sulfate (Oral Solution) 2 mg/mL ___ mg PO Q2H:PRN 
pain/dyspnea 
RX *morphine 10 mg/5 mL ___ ml by mouth every 2 hours as needed 
Refills:*0 
4.  Gabapentin 400 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
=============
febrile neutropenia 
AML
Pneumonia
Sinusitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted for fevers while your blood counts were low. 
You were found to have persistent pneumonia which did not 
improve with antibiotics. With worsening pneumonia, you 
transitioned to comfort measures and supportive care. You are 
not being discharge home. 

Sincerely, 
Your ___ team
 
Followup Instructions:
___